US05332729
A solution of 0.4 g of lithium hydroxide in 10 ml of water is added to a solution of 3.0 g of 3-{N-[1-(3-cyanophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid ethyl ester in 10 ml of ethanol and the batch is heated under reflux for 24 hours. It is cooled to 4° and neutralised with aqueous phosphoric acid. The solvent is removed and the residue is taken up in warm methanol and filtered. Removal of the solvent and crystallisation from ethanol/acetone gives lithium 3-{N-[1-(3-carboxyphenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinate having a melting point of 160°-184°.

reactant | lithium hydroxide | 0.4 g | [OH-].[Li+]
reactant | 3-{N-[1-(3-cyanophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid ethyl ester | 3.0 g | C(C)OP(=O)(CC1CCCCC1)C[C@H](CNC(C)C1=CC(=CC=C1)C#N)O | C21H33N2O3P
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | lithium 3-{N-[1-(3-carboxyphenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinate | C(=O)(O)C=1C=C(C=CC1)C(C)NC[C@@H](CP([O-])(=O)CC1CCCCC1)O.[Li+] | InChI=1S/C19H30NO5P.Li/c1-14(16-8-5-9-17(10-16)19(22)23)20-11-18(21)13-26(24,25)12-15-6-3-2-4-7-15;/h5,8-10,14-15,18,20-21H,2-4,6-7,11-13H2,1H3,(H,22,23)(H,24,25);/q;+1/p-1/t14?,18-;/m0./s1
